US06995144B2
3-(2-Fluorophenyl)-2-[1-(3-oxo-3,4-dihydro-2-pyrazinylmethyl]piperidin-4-yl)propionitrile
After adding 3 ml of 4N hydrogen chloride/ethyl is acetate to 188 mg of 2-[1-(3-tert-butoxy-2-pyrazinylmethyl)piperidin-4-yl]-3-(2-fluorophenyl)propionitrile while cooling on ice, the mixture was stirred 1 hour. A 2N sodium hydroxide solution was added to the reaction solution for neutralization, and extraction was performed with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. Diethyl ether was added to the residue and the mixture was filtered to obtain the title compound (129 mg, 80% yield).

reactant | acetate | C(C)(=O)[O-]
reactant | 2-[1-(3-tert-butoxy-2-pyrazinylmethyl)piperidin-4-yl]-3-(2-fluorophenyl)propionitrile | 188 mg | C(C)(C)(C)OC=1C(=NC=CN1)CN1CCC(CC1)C(C#N)CC1=C(C=CC=C1)F | C23H29FN4O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2-Fluorophenyl)-2-[1-(3-oxo-3,4-dihydro-2-pyrazinylmethyl]piperidin-4-yl)propionitrile | 129 mg, 80% yield | FC1=C(C=CC=C1)CC(C#N)C1CCN(CC1)CC1=NC=CNC1=O | C19H21FN4O
